US07560546B2
Step A: tert-Butyl-5-bromo-2-{[(tert-butoxycarbonyl)amino]carbonyl}-3-(morpholin-4-ylsulfonyl)-1H-indole-1-carboxylate
5-Bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide (612 mg, 1.58 mmol, 1.0 equiv) was dissolved in 10 mL of dry dimethylformamide and cooled to 0° C. Sodium hydride (189 mg, 60% dispersion in mineral oil, 4.73 mmol, 3.0 equiv) was added and the reaction was stirred for 30 minutes at 0° C. Di-tert-butyl dicarbonate (860 mg, 3.94 mmol, 2.5 equiv) was added and the reaction was warmed to ambient temperature overnight. After 18 hours, the reaction mixture was cooled to 0° C. and sodium hydride (189 mg, 60% dispersion in mineral oil, 4.73 mmol, 3.0 equiv) was added. After stirring for 30 minutes at 0° C., di-tert-butyl dicarbonate (860 mg, 3.94 mmol, 2.5 equiv) was added and the reaction was warmed to ambient temperature and stirred for 4 hours. The reaction was poured into aqueous saturated NaHCO3 and extracted three times with dichloromethane. The combined organic layers were dried (Na2SO4), filtered and concentrated in vacuo. The title compound was obtained after purification by flash chromatography on silica gel (ethyl acetate/hexanes). Proton NMR for the product was consistent with the titled compound. ESI+MS: 588.2 [M+H]+.

reactant | 5-Bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | 1.58 mmol, 612 mg, 1.0 equiv | BrC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1CCOCC1 | C13H14BrN3O4S
reactant | Sodium hydride | 4.73 mmol, 189 mg, 3.0 equiv | [H-].[Na+]
reactant | Di-tert-butyl dicarbonate | 3.94 mmol, 860 mg, 2.5 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydride | 4.73 mmol, 189 mg, 3.0 equiv | [H-].[Na+]
reactant | di-tert-butyl dicarbonate | 3.94 mmol, 860 mg, 2.5 equiv | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | tert-Butyl-5-bromo-2-{[(tert-butoxycarbonyl)amino]carbonyl}-3-(morpholin-4-ylsulfonyl)-1H-indole-1-carboxylate | C(C)(C)(C)OC(=O)N1C(=C(C2=CC(=CC=C12)Br)S(=O)(=O)N1CCOCC1)C(=O)NC(=O)OC(C)(C)C | C23H30BrN3O8S
